US05262533
17-Ethyl-1,14-dihydroxy-12-[2'-(3"-phenoxy-4"-oxocyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of 17-ethyl-1-hydroxy-12-[2'-(3"-phenoxy-4"-oxocyclohexyl)-1'-methylvinyl]14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in acetonitrile was added hydrofluoric acid at room temperature. The reaction progress is monitored by tlc analysis and then the reaction mixture is quenched with sat'd aqueous sodium bicarbonate. The organic layer is separated and the aqueous layer is extracted with ethyl acetate three times. Combined organic layers are washed (sat'd NaHCO3, sat'd NaCl), dried (anhydrous Na2SO4), and filtered. Removal of solvent followed by purification (silica gel column chromatography, 50% ethyl acetate/hexane) gives the title compound.

reactant | 17-ethyl-1-hydroxy-12-[2'-(3"-phenoxy-4"-oxocyclohexyl)-1'-methylvinyl]14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=O)OC2=CC=CC=C2)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C57H89NO12Si
reactant | hydrofluoric acid | F | FH
solvent | acetonitrile | C(C)#N | C2H3N
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-phenoxy-4"-oxocyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=O)OC2=CC=CC=C2)C)C)O)=O | C48H69NO12
